US07812183B2
3-Hydroxy-2,2-dimethyl-4-(5-nitro-benzothiazol-2-ylamino)-chroman-6-carbonitrile (Compound #6)
Following the procedure in Example 1, using (±)-2,2-dimethyl-1a,7b-dihydro-2H-1,3-dioxa-cyclopropa[a]naphthalene-6-carbonitrile and 5-nitro-benzothiazol-2-ylamine as starting material, the title compound was prepared as white solid.

reactant | (±)-2,2-dimethyl-1a,7b-dihydro-2H-1,3-dioxa-cyclopropa[a]naphthalene-6-carbonitrile | CC1(C2C(C3=CC(=CC=C3O1)C#N)O2)C | C12H11NO2
reactant | 5-nitro-benzothiazol-2-ylamine | [N+](=O)([O-])C=1C=CC2=C(N=C(S2)N)C1 | C7H5N3O2S
product | 3-Hydroxy-2,2-dimethyl-4-(5-nitro-benzothiazol-2-ylamino)-chroman-6-carbonitrile | OC1C(OC2=CC=C(C=C2C1NC=1SC2=C(N1)C=C(C=C2)[N+](=O)[O-])C#N)(C)C | C19H16N4O4S
